Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left upper extremity radicular symptoms 
 
Major Surgical or Invasive Procedure:
1. Anterior cervical diskectomy and arthrodesis, C5-6, C6-
    7.
2. Application of interbody cage, C5-6, C6-7.
3. Left iliac crest bone graft harvest, morselized.
4. Application of anterior cervical plates, C5-C7.

 
History of Present Illness:
___ presents with a chief complaint of left upper extremity 
radicular symptoms in C6 distribution. She is a previous 
semi-pro soccer player. She has done a greater than three months 
of physical therapy and traction for both her low back and her 
neck. This has given her some significant relief, but she is 
still having significant issues. She has also undergone massage 
therapy, acupuncture therapy in the past. She has numbness, 
nerve damage in her lower extremity on the right side. This is 
residual from her previous lumbar surgery, which was performed 
in ___. Her symptoms are in the left upper extremity. They are 
more constant with subjective weakness in her arms, ___ at 
rest, this despite conservative options. Much of this is chronic 
and with acute exacerbation in the past four months, this is 
getting worse. MRI of her cervical spine from ___, 
which shows a left C4-C5 and C5-C6 foraminal stenosis. She also 
has disc space narrowing at C6-C7. X-rays reviewed including 
flexion-extension views, which show a normal disk height at 
C4-C5, but C5-C6 and C6-C7 with significant degenerative 
changes.
 
Past Medical History:
Her past medical history is significant for anxiety and 
depression.

Surgical History: Disk surgery at L4-L5. Two ___ 
abdominal surgery, appendectomy ___, and a bunion surgery, 
right foot in ___.  

 
Social History:
___
Family History:
n/c
 
Physical Exam:
AVSS
Well appearing, NAD, comfortable
BUE: SILT C5-T1 dermatomal distributions
BUE: 4+/5 Del/Tri/Bic/WE/WF/FF/IO
All fingers WWP, brisk capillary refill, 2+ distal pulses
All toes WWP, brisk capillary refill, 2+ distal pulses
 
Pertinent Results:
___ 05:23AM BLOOD WBC-11.5* RBC-3.84* Hgb-11.5 Hct-34.6 
MCV-90 MCH-29.9 MCHC-33.2 RDW-12.9 RDWSD-42.5 Plt ___
___ 07:15AM BLOOD WBC-12.8*# RBC-4.02 Hgb-12.1 Hct-36.2 
MCV-90 MCH-30.1 MCHC-33.4 RDW-12.8 RDWSD-42.3 Plt ___
___ 05:23AM BLOOD Plt ___
___ 07:15AM BLOOD Plt ___
___ 05:23AM BLOOD Glucose-100 UreaN-5* Creat-0.6 Na-138 
K-3.4 Cl-107 HCO3-27 AnGap-7*
___ 07:15AM BLOOD Glucose-72 UreaN-7 Creat-0.7 Na-140 K-3.6 
Cl-105 HCO3-26 AnGap-13
___ 05:23AM BLOOD CK(CPK)-101
___ 05:23AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 07:15AM BLOOD Calcium-8.4 Phos-3.3 Mg-1.7

CTA Chest ___:
1.  No evidence of pulmonary embolism or aortic abnormality.
2.  Interspersed high to intermediate density fluid throughout 
the upper
mediastinum and lower neck with multiple foci of gas, compatible 
with
postoperative change / hematoma on day 2 following cervical 
spine surgery. No definite evidence of active extravasation of 
contrast, though this examination is not targeted for this 
assessment.  Infection cannot be excluded, if there are clinical 
symptoms worrisome for this, although the presence of gas is 
compatible with early postoperative state.
3.  Small bilateral pleural effusions and bibasilar atelectasis.
4.  Heterogeneous thyroid can be assessed with ultrasound on a 
nonurgent
basis.
 
RECOMMENDATION(S): Heterogeneous thyroid can be assessed with US 
on a
nonurgent basis ___ months).

 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#2. The patient was ambulating 
independently. Hospital course was otherwise unremarkable.On the 
day of discharge the patient was afebrile with stable vital 
signs, comfortable on oral pain control and tolerating a regular 
diet.

The patient had an episode of chest pain in early am of ___. 
CTA negative for PE. Cardiac Enzymes negative. Blood work was 
good. Her vitals signs were stable throughout hospitalization. 
She reports that she has been experiencing this type of chest 
pain for 1.5-2 months now and sometimes it is located in her 
back as well and feels muscular in nature. These symptoms have 
improved with her valium.  

CTA Chest: Negative for Pulmonary embolism, however there was a 
non-urgent finding of heterogeneous thyroid. The radiologist 
recommends:
Heterogeneous thyroid can be assessed with US on a nonurgent 
basis ___ months).
 
Medications on Admission:
Sertraline
Valium
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
may take over the counter 
2. Docusate Sodium 100 mg PO BID 
please take while on narcotic pain medication 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
3. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
please do not operate heavy machinery, drink alcohol or drive 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*42 Tablet Refills:*0
4. Sertraline 200 mg PO DAILY 
5. Diazepam 5 mg PO TID:PRN pain or spasm 
RX *diazepam 5 mg 1 tablet by mouth three times a day Disp #*42 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Cervical stenosis.
2. Cervical spondylosis.
3. Left upper extremity radicular symptoms in the C6 and C7
    distribution.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
ACDF:
You have undergone the following operation:Anterior Cervical 
Decompression and Fusion.
Immediately after the operation:
_x0095_                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit in a car or chair for more than~45 minutes without 
getting up and walking around. 
_x0095_                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.  
_x0095_                Swallowing:Difficulty swallowing is not 
uncommon after this type of surgery.This should resolve over 
time.Please take small bites and eat slowly.Removing the collar 
while eating can be helpful_x0096_however,please limit your movement 
of your neck if you remove your collar while eating.
_x0095_                Cervical Collar / Neck Brace:If you have been 
given a soft collar for comfort, you may remove the collar to 
take a shower or eat.Limit your motion of your neck while the 
collar is off.You should wear the collar when walking,especially 
in public.
_x0095_                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery,do not get the incision wet.Call the office at that 
time. f you have an incision on your hip please follow the same 
instructions in terms of wound care.
_x0095_                You should resume taking your normal home 
medications.
_x0095_                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so plan ahead.You can either have them 
mailed to your home or pick them up at the clinic located on 
___.We are not allowed to call in narcotic 
(oxycontin,oxycodone,percocet) prescriptions to the pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.
_x0095_                Follow up:
                Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.
                At the 2-week visit we will check your 
incision,take baseline x rays and answer any questions.
                We will then see you at 6 weeks from the day of 
the operation.At that time we will most likely obtain 
Flexion/Extension X-rays and often able to place you in a soft 
collar which you will wean out of over 1 week.
Please call the office if you have a fever>101.5 degrees 
Fahrenheit, drainage from your wound,or have any questions.
 
Followup Instructions:
___